US05494919
Step A: 3-Benzylpyridine N-oxide
A solution of 3-benzylpyridine (25 g, 0.148 tool) in hydrogen peroxide (30%, 15.1 mL) and acetic acid (100 mL) was refluxed for one day. Then more hydrogen peroxide (3 mL) was added and the resulting mixture was refluxed overnight. The reaction mixture was then evaporated and partitioned between a mixture of 3 N HCl, brine and dichloromethane. The organic layer was separated, dried and evaporated to give the desired compound (27.6 g, 100%).

reactant | 3-benzylpyridine | 25 g | C(C1=CC=CC=C1)C=1C=NC=CC1 | C12H11N
reactant | hydrogen peroxide | 15.1 mL | OO | H2O2
reactant | hydrogen peroxide | 3 mL | OO | H2O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 3-Benzylpyridine N-oxide | 27.6 g, 100% | C(C1=CC=CC=C1)C=1C=[N+](C=CC1)[O-] | C12H11NO
